Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Aspirin / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
pelvic organ prolapse
 
Major Surgical or Invasive Procedure:
Robotic assisted supracervical hysterectomy, bilateral 
salpingo-oopherectomy, sacrocolpopexy, tension free transvaginal 
tape, perineorraphy

 
History of Present Illness:
Mrs. ___ is a ___ patient who presents with 
prolapse, which she has had for several years.  She has tried 
and failed pessary.  She says it has been getting worse and is 
currently "very bad".  She has lot of pressure bulge and 
protrusion symptoms, now bleeding and spotting as well.

She notes urinary difficulty initiating urine from time to time, 
it was worse initially when the prolapse start protruding than 
it is now.  She also notes some slow urine stream.

She also has some moisture on her patch, she is not sure if she 
is incontinent or she sweats.  She denies stress incontinence 
per se.  She does have urinary frequency in the nighttime going 
to bathroom three to four times at night, but daytime frequency 
is normal.  She denies constipation.  She is not sexually 
active.
 
Past Medical History:
Past Medical History:  The patient is fairly healthy.  She notes
it is notable for mitral valve prolapse.  Notable for G6PD
deficiency, borderline hypertension.

Past Surgical History:  She had an ankle fracture repair.

Past OB History:  Four pregnancies total birth weight of largest
baby delivered vaginally was 9 pounds, all babies were delivered
vaginally.

Past GYN History:  Last Pap ___, was normal.  No history of
abnormal Paps.

 
Social History:
___
Family History:
Mother has diabetes and heart disease.

 
Physical Exam:
Weight 156, height 5 feet 4 inches, blood pressure 141/80, pulse 
61, temperature is 98.  
General:  Well developed, well groomed, normal weight.  
Psych:  Oriented x3, affect is normal.  
Skin:  Warm and dry, no atypical lesions or rashes.  
Pulmonary:  Normal respiratory effort.  No use of accessory 
muscles.  Abdomen:  Soft, nontender.  No masses, guarding or 
rebound.  No hepatosplenomegaly.  
Cardiovascular: Pulse normal rate and rhythm.  No pedal edema or 
varicosities. 
Neurologic:  The bulbocavernosus reflex is positive.  The anal
wink is positive.  Grossly normal sensation to light touch in 
the
saddle region.  
Genitourinary:  External genitalia is normal, no lesions or 
discharge.  Urethral Meatus:  No caruncle or prolapse.
Urethra:  Nontender, no masses or exudate.  
Bladder: Nonpalpable and nontender.  
Vagina is mucosa atrophic, no abnormal lesions.  There is 
prolapse, see POP-Q below. Cervix: Grossly normal.  Uterus 
mobile, nontender.  Adnexa:  No
tenderness, no masses.

POP-Q:  
Aa +1, Ba +8, C +8, 
___ 4, PB 2, TVL 7.
Ap +3, Bp +6, D +6.

Supine empty stress test was negative.

Post-void residual volume obtained via catheterization was 50 mL
of clear urine.

Urinalysis:  See OMR for urinalysis.

Uroflowmetry:  Voided volume 361, max flow 29 mL/sec, average
flow 16 mL/sec, voiding time 23 seconds, flow time 20 seconds,
time to max flow 5 seconds; normal bell-shaped curve.
 
Pertinent Results:
None
 
Brief Hospital Course:
Ms. ___ underwent an uncomplicated robotic assisted 
supracervical hysterectomy, bilateral salpingo-oopherectomy, 
sacrocolpopexy, tension free transvaginal tape, and 
perineorraphy; see operative report for details. She had an 
uncomplicated recovery and was discharged home on postoperative 
day #1 in good condition: ambulating and urinating without 
difficulty, tolerating a regular diet, and with adequate pain 
control using PO medication.

 
Medications on Admission:
Vitamin C, Ca, Vitamin D, cod liver oil, MVI
 
Discharge Medications:
1. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain.
Disp:*40 Tablet(s)* Refills:*0*
2. oxycodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for Pain.
Disp:*30 Tablet(s)* Refills:*0*
3. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pelvic organ prolapse, urinary incontinence

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex), no 
heavy lifting of objects >10lbs for 6 weeks.   
* You may eat a regular diet  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.   
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
 
Followup Instructions:
___